US05371097
Hydrogen chloride gas was babbled to a solution of 4-[2-(2-t-butoxycarbonylaminoethyl)thiazol-4-yl]-2-(diaminomethyleneamino)thiazole (3.0 g) in ethanol (30 ml) for 10 minutes at room temperature. The mixture was stirred at room temperature for 20 minutes. The resulting precipitate was collected by filtration. Recrystallization from a mixture of methanol and diisopropyl ether afforded 4-[2-(2-aminoethyl)thiazol-yl]-2-(diaminomethyleneamino)thiazole dihydrochloride (2.3 g).

reactant | Hydrogen chloride | Cl | ClH
reactant | 4-[2-(2-t-butoxycarbonylaminoethyl)thiazol-4-yl]-2-(diaminomethyleneamino)thiazole | 3.0 g | C(C)(C)(C)OC(=O)NCCC=1SC=C(N1)C=1N=C(SC1)N=C(N)N | C14H20N6O2S2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4-[2-(2-aminoethyl)thiazol-yl]-2-(diaminomethyleneamino)thiazole dihydrochloride | 2.3 g | Cl.Cl.NCCC=1SC=C(N1)C=1N=C(SC1)N=C(N)N | InChI=1S/C9H12N6S2.2ClH/c10-2-1-7-13-5(3-16-7)6-4-17-9(14-6)15-8(11)12;;/h3-4H,1-2,10H2,(H4,11,12,14,15);2*1H
